US08049015B2
3-Bromo-2-hydroxy-5-methylpyridine (5.012 g, 26.7 mmol), silver carbonate (9.58 g, 34.7 mmol), and iodomethane (5 mL, 80.0 mmol) were combined in CHCl3 (75 mL) and stirred at 55° C. for 3 hours. The mixture was cooled and filtered through Celite, and the filtrate was concentrated and purified by silica gel chromatography (0-100% EtOAc in hexanes) to give 3-bromo-2-methoxy-5-methyl-pyridine.

reactant | 3-Bromo-2-hydroxy-5-methylpyridine | 26.7 mmol, 5.012 g | BrC=1C(=NC=C(C1)C)O | C6H6BrNO
reactant | iodomethane | 80.0 mmol, 5 mL | IC | CH3I
solvent | CHCl3 | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver carbonate | 34.7 mmol, 9.58 g | C([O-])([O-])=O.[Ag+2]
product | 3-bromo-2-methoxy-5-methyl-pyridine | BrC=1C(=NC=C(C1)C)OC | C7H8BrNO
